US04753933
Sodium carbonate (70 g) is added gradually to a solution of 2-methylaminoethanol (50 g) in water (850 cc). The temperature rises gradually from 25° to 38° C. In the course of 5 minutes, a solution of di-tert-butyl dicarbonate (155 g) in dioxane (700 cc) is then poured in; the reaction is slightly exothermic. After 15 hours' stirring at approximately 20° C., the suspension obtained is separated by filtration and washed with water (100 cc). The filtrate is extracted with methylene chloride (3×500 cc), and the combined organic extracts are washed with water (500 cc), dried over magnesium sulphate and concentrated to dryness at 60° C. under reduced pressure (4 kPa). 2-(N-Methyl-N-tert-butoxycarbonylamino)ethanol (114.7 g) is obtained in the form of an oil.

reactant | Sodium carbonate | 70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methylaminoethanol | 50 g | CNCCO | C3H9NO
reactant | di-tert-butyl dicarbonate | 155 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 850 cc | O | H2O
solvent | dioxane | 700 cc | O1CCOCC1 | C4H8O2
product | 2-(N-Methyl-N-tert-butoxycarbonylamino)ethanol | 114.7 g | CN(C(=O)OC(C)(C)C)CCO | C8H17NO3
